simulator lang=spectre
global 0

ahdl_include "../submission/bound_step_period_guard_ref.va"

Vvdd (VDD 0) vsource dc=0.9 type=dc
Vvss (VSS 0) vsource dc=0.0 type=dc
IDUT (VDD VSS guard_out phase_out) bound_step_period_guard_ref \
period=8n pulse_w=1.5n points_per_period=16 tedge=40p

tran tran stop=34n maxstep=20n errpreset=conservative
save guard_out phase_out VDD VSS
